US07151105B2
Step 3: 6-Chloro-4-iodo-pyridin-3-ol
2-Chloro-4-iodo-5-methoxymethoxy-pyridine (0.8 g, 2.7 mmol) was dissolved in THF (4 mL) and 3N HCl (6 mL). The mixture was heated to 60° C. with magnetic stirring. Heating was maintained for 3 hours. The mixture was cooled to room temperature and the pH was adjusted to 7 with the slow addition of saturated aqueous sodium bicarbonate. The result was extracted with EtOAc (3×50 mL) dried over Na2SO4, filtered and concentrated. The solid was suspended in EtOAc and stirred for 12 hours at room temperature. The mixture was filtered and the filtrate was concentrated to yield an off white solid (0.63 g, 93%). 1H NMR (400 MHz, DMSO-d6): δ 11.10 (br s, 1H), 7.89 (s, 2H).

reactant | 2-Chloro-4-iodo-5-methoxymethoxy-pyridine | 2.7 mmol, 0.8 g | ClC1=NC=C(C(=C1)I)OCOC | C7H7ClINO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | HCl | 3N, 6 mL | Cl | ClH
product | 6-Chloro-4-iodo-pyridin-3-ol | 0.63 g, 93% | ClC1=CC(=C(C=N1)O)I | C5H3ClINO
